US05028602
A solution of 3-thienylethyl formamide (62.0 g) in dry diethylether (100 ml) was added dropwise over 1 hour to a stirred suspension of lithium aluminium hydride (19.0 g) in diethylether (500 ml) at room temperature under nitrogen. After 2 hours at reflux temperature the mixture was allowed to cool and the following were added, water (19 ml), 2M sodium hydroxide (38 ml) and water (57 ml). After vigorous stirring for 0.5 hours the suspension was filtered and the filtrate evaporated. The liquid residue (58 g) was dissolved in ethanol (60 ml) and ethanolic hydrogen chloride (~5M, 90 ml) added. After cooling the white crystals of methyl thiophene-3-ethylamine hydrochloride (m.p. 149°) were filtered. The hydrochloride salt was converted to the free base by extraction between dichloromethane and aqueous ammonia, followed by distillation to give methyl thiophene-3-ethylamine (b.p. 78° at 2 mmHg) as a colourless liquid.

reactant | 3-thienylethyl formamide | 62.0 g | S1C=C(C=C1)CCNC=O | C7H9NOS
reactant | lithium aluminium hydride | 19.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 19 ml | O | H2O
reactant | sodium hydroxide | 2M, 38 ml | [OH-].[Na+]
reactant | water | 57 ml | O | H2O
reactant | diethylether | 100 ml | C(C)OCC | C4H10O
reactant | diethylether | 500 ml | C(C)OCC | C4H10O
product | methyl thiophene-3-ethylamine | CC=1SC=CC1CCN | C7H11NS
